### PR TITLE
[Merged by Bors] - feat(Topology/Separation): define R₁ spaces, review API

### PR DESCRIPTION
**Pull request by urkud**
### Main API changes

- Define `R1Space`, a.k.a. preregular space.
- Drop `T2OrLocallyCompactRegularSpace`.
- Generalize all existing theorems
  about `T2OrLocallyCompactRegularSpace` to `R1Space`.
- Drop the `[T2OrLocallyCompactRegularSpace _]` assumption
  if the space is known to be regular for other reason
  (e.g., because it's a topological group).

### New theorems

- `Specializes.not_disjoint`:
  if `x ⤳ y`, then `𝓝 x` and `𝓝 y` aren't disjoint;
- `specializes_iff_not_disjoint`, `Specializes.inseparable`,
  `disjoint_nhds_nhds_iff_not_inseparable`,
  `r1Space_iff_inseparable_or_disjoint_nhds`: basic API about `R1Space`s;
- `Inducing.r1Space`, `R1Space.induced`, `R1Space.sInf`, `R1Space.iInf`,
  `R1Space.inf`, instances for `Subtype _`, `X × Y`, and `∀ i, X i`:
  basic instances for `R1Space`;
- `IsCompact.mem_closure_iff_exists_inseparable`,
  `IsCompact.closure_eq_biUnion_inseparable`:
  characterizations of the closure of a compact set in a preregular space;
- `Inseparable.mem_measurableSet_iff`: topologically inseparable points
  can't be separated by a Borel measurable set;
- `IsCompact.closure_subset_measurableSet`, `IsCompact.measure_closure`:
  in a preregular space, a measurable superset of a compact set
  includes its closure as well;
  as a corollary, `closure K` has the same measure as `K`.
- `exists_mem_nhds_isCompact_mapsTo_of_isCompact_mem_nhds`:
  an auxiliary lemma extracted from a `LocallyCompactPair` instance;
- `IsCompact.isCompact_isClosed_basis_nhds`:
  if `x` admits a compact neighborhood,
  then it admits a basis of compact closed neighborhoods;
  in particular, a weakly locally compact preregular space
  is a locally compact regular space;
- `isCompact_isClosed_basis_nhds`: a version of the previous theorem
  for weakly locally compact spaces;
- `exists_mem_nhds_isCompact_isClosed`: in a locally compact regular space,
  each point admits a compact closed neighborhood.

### Deprecated theorems

Some theorems about topological groups are true for any (pre)regular space,
so we deprecate the special cases.

- `exists_isCompact_isClosed_subset_isCompact_nhds_one`:
  use new `IsCompact.isCompact_isClosed_basis_nhds` instead;
- `instLocallyCompactSpaceOfWeaklyOfGroup`,
  `instLocallyCompactSpaceOfWeaklyOfAddGroup`:
  are now implied by `WeaklyLocallyCompactSpace.locallyCompactSpace`;
- `local_isCompact_isClosed_nhds_of_group`,
  `local_isCompact_isClosed_nhds_of_addGroup`:
  use `isCompact_isClosed_basis_nhds` instead;
- `exists_isCompact_isClosed_nhds_one`, `exists_isCompact_isClosed_nhds_zero`:
  use `exists_mem_nhds_isCompact_isClosed` instead.

### Renamed/moved theorems

For each renamed theorem, the old theorem is redefined as a deprecated alias.

- `isOpen_setOf_disjoint_nhds_nhds`: moved to `Constructions`;
- `isCompact_closure_of_subset_compact` -> `IsCompact.closure_of_subset`;
- `IsCompact.measure_eq_infi_isOpen` -> `IsCompact.measure_eq_iInf_isOpen`;
- `exists_compact_superset_iff` -> `exists_isCompact_superset_iff`;
- `separatedNhds_of_isCompact_isCompact_isClosed` -> `SeparatedNhds.of_isCompact_isCompact_isClosed`;
- `separatedNhds_of_isCompact_isCompact` -> `SeparatedNhds.of_isCompact_isCompact`;
- `separatedNhds_of_finset_finset` -> `SeparatedNhds.of_finset_finset`;
- `point_disjoint_finset_opens_of_t2` -> `SeparatedNhds.of_singleton_finset`;
- `separatedNhds_of_isCompact_isClosed` -> `SeparatedNhds.of_isCompact_isClosed`;
- `exists_open_superset_and_isCompact_closure` -> `exists_isOpen_superset_and_isCompact_closure`;
- `exists_open_with_compact_closure` -> `exists_isOpen_mem_isCompact_closure`;

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Separation.lean [hunk 1]
```diff
@@ -912,6 +914,280 @@ theorem TopologicalSpace.subset_trans {s t : Set X} (ts : t ⊆ s) :
...
+@[simp]
+theorem exists_isCompact_superset_iff {s : Set X} :
+    (∃ K, IsCompact K ∧ s ⊆ K) ↔ IsCompact (closure s) :=
+  ⟨fun ⟨_K, hK, hsK⟩ => hK.closure_of_subset hsK, fun h => ⟨closure s, h, subset_closure⟩⟩
+#align exists_compact_superset_iff exists_isCompact_superset_iff
+
+@[deprecated] -- Since 28 Jan 2024
+alias exists_compact_superset_iff := exists_isCompact_superset_iff
+
+/-- If `K` and `L` are a disjoint compact set in a preregular topological space
```
Comment (sgouezel) [inline Mathlib/Topology/Separation.lean:1017]:
```suggestion
/-- If `K` and `L` are disjoint compact sets in a preregular topological space
```

File: Mathlib/Topology/Separation.lean [hunk 2]
```diff
@@ -912,6 +914,280 @@ theorem TopologicalSpace.subset_trans {s t : Set X} (ts : t ⊆ s) :
...
+theorem exists_mem_nhds_isCompact_isClosed (x : X) : ∃ K ∈ 𝓝 x, IsCompact K ∧ IsClosed K :=
+  (isCompact_isClosed_basis_nhds x).ex_mem
+
+-- see Note [lower instance priority]
+/-- A weakly locally compact preregular space is locally compact. -/
+instance (priority := 80) WeaklyLocallyCompactSpace.locallyCompactSpace : LocallyCompactSpace X :=
+  .of_hasBasis isCompact_isClosed_basis_nhds fun _ _ ⟨_, h, _⟩ ↦ h
+#align locally_compact_of_compact_nhds WeaklyLocallyCompactSpace.locallyCompactSpace
+
+/-- In a weakly locally compact space which is either T₂ or locally compact regular,
```
Comment (sgouezel) [inline Mathlib/Topology/Separation.lean:1167]:
```suggestion
/-- In a weakly locally compact preregular space,
```
Same thing below.

File: Mathlib/Topology/Separation.lean [hunk 3]
```diff
@@ -912,6 +914,280 @@ theorem TopologicalSpace.subset_trans {s t : Set X} (ts : t ⊆ s) :
...
+    let ⟨K, hKx, hKc, hKU⟩ := exists_mem_nhds_isCompact_mapsTo_of_isCompact_mem_nhds
+      continuous_id (interior_mem_nhds.2 hU) hLc hxL
+    ⟨closure K, mem_of_superset hKx subset_closure, ⟨hKc.closure, isClosed_closure⟩,
+      (hKc.closure_subset_of_isOpen isOpen_interior hKU).trans interior_subset⟩
+
+/-!
+### Lemmas about a weakly locally compact preregular space
+
+In fact, a space with these properties is locally compact and regular.
+Some lemmas are formulated in that assumptions below.
```
Comment (sgouezel) [inline Mathlib/Topology/Separation.lean:1145]:
```suggestion
Some lemmas are formulated using the latter assumptions below.
```

File: Mathlib/Topology/Separation.lean [hunk 4]
```diff
@@ -2009,9 +2109,9 @@ instance (priority := 100) T4Space.t3Space [T4Space X] : T3Space X where
     (disjoint_singleton_right.mpr hxs)).disjoint_nhdsSet
 #align normal_space.t3_space T4Space.t3Space
 
-instance (priority := 100) T4Space.of_compactSpace_t2Space [CompactSpace X] [T2Space X] :
-    T4Space X where
-  normal _s _t hs ht := separatedNhds_of_isCompact_isCompact hs.isCompact ht.isCompact
+@[deprecated inferInstance]
```
Comment (sgouezel) [inline Mathlib/Topology/Separation.lean:2112]: deprecation date?

**Review by sgouezel — COMMENTED** [review]
This looks great, thanks!
bors d+

File: Mathlib/MeasureTheory/Group/Measure.lean [hunk 5]
```diff
@@ -762,9 +762,8 @@ lemma _root_.MeasurableSet.mul_closure_one_eq {s : Set G} (hs : MeasurableSet s)
 /-- If a compact set is included in a measurable set, then so is its closure. -/
 @[to_additive]
```
Comment (urkud) [inline Mathlib/MeasureTheory/Group/Measure.lean:763]:
```suggestion
@[to_additive (attr := deprecated)] -- Since 28 Jan 2024
```

**Comment by urkud** [comment]
bors merge

File: Mathlib/Topology/Separation.lean [hunk 6]
```diff
@@ -912,6 +914,287 @@ theorem TopologicalSpace.subset_trans {s t : Set X} (ts : t ⊆ s) :
...
+/-- In an R₁ space, the `Specializes` relation is symmetric, i.e., an R₁ is an R₀ space. -/
+theorem Specializes.symm (h : x ⤳ y) : y ⤳ x := by
+  simpa only [specializes_iff_not_disjoint, disjoint_comm] using h
+#align specializes.symm Specializes.symm
+
+/-- In an R₁ space, the `Specializes` relation is symmetric, i.e., an R₁ is an R₀ space. -/
+theorem specializes_comm : x ⤳ y ↔ y ⤳ x := ⟨Specializes.symm, Specializes.symm⟩
+#align specializes_comm specializes_comm
+
+/-- In an R₁ space, the `Specializes` is equivalent to `Inseparable`, i.e., an R₁ is an R₀ space. -/
```
Comment (Parcly-Taxel) [inline Mathlib/Topology/Separation.lean:947]:
```suggestion
/-- In an R₁ space, `Specializes` is equivalent to `Inseparable`. -/
```

File: Mathlib/Topology/Separation.lean [hunk 7]
```diff
@@ -912,6 +914,287 @@ theorem TopologicalSpace.subset_trans {s t : Set X} (ts : t ⊆ s) :
...
+
+theorem specializes_iff_not_disjoint : x ⤳ y ↔ ¬Disjoint (𝓝 x) (𝓝 y) :=
+  disjoint_nhds_nhds_iff_not_specializes.not_left.symm
+
+/-- In an R₁ space, the `Specializes` relation is symmetric, i.e., an R₁ is an R₀ space. -/
+theorem Specializes.symm (h : x ⤳ y) : y ⤳ x := by
+  simpa only [specializes_iff_not_disjoint, disjoint_comm] using h
+#align specializes.symm Specializes.symm
+
+/-- In an R₁ space, the `Specializes` relation is symmetric, i.e., an R₁ is an R₀ space. -/
```
Comment (Parcly-Taxel) [inline Mathlib/Topology/Separation.lean:943]:
```suggestion
/-- In an R₁ space, the `Specializes` relation is symmetric. -/
```

File: Mathlib/Topology/Separation.lean [hunk 8]
```diff
@@ -912,6 +914,287 @@ theorem TopologicalSpace.subset_trans {s t : Set X} (ts : t ⊆ s) :
...
+theorem specializes_comm : x ⤳ y ↔ y ⤳ x := ⟨Specializes.symm, Specializes.symm⟩
+#align specializes_comm specializes_comm
+
+/-- In an R₁ space, the `Specializes` is equivalent to `Inseparable`, i.e., an R₁ is an R₀ space. -/
+theorem specializes_iff_inseparable : x ⤳ y ↔ Inseparable x y :=
+  ⟨fun h ↦ h.antisymm h.symm, Inseparable.specializes⟩
+#align specializes_iff_inseparable specializes_iff_inseparable
+
+/-- An R₁ space, if `x` specializes `y`, then they are inseparable, i.e., an R₁ is an R₀ space. -/
```
Comment (Parcly-Taxel) [inline Mathlib/Topology/Separation.lean:952]:
```suggestion
/-- In an R₁ space, `Specializes` is equivalent to `Inseparable`. -/
```

File: Mathlib/Topology/Separation.lean [hunk 9]
```diff
@@ -912,6 +914,287 @@ theorem TopologicalSpace.subset_trans {s t : Set X} (ts : t ⊆ s) :
...
+variable [R1Space X] {x y : X}
+
+theorem disjoint_nhds_nhds_iff_not_specializes : Disjoint (𝓝 x) (𝓝 y) ↔ ¬x ⤳ y :=
+  ⟨fun hd hspec ↦ hspec.not_disjoint hd, (specializes_or_disjoint_nhds _ _).resolve_left⟩
+#align disjoint_nhds_nhds_iff_not_specializes disjoint_nhds_nhds_iff_not_specializes
+
+theorem specializes_iff_not_disjoint : x ⤳ y ↔ ¬Disjoint (𝓝 x) (𝓝 y) :=
+  disjoint_nhds_nhds_iff_not_specializes.not_left.symm
+
+/-- In an R₁ space, the `Specializes` relation is symmetric, i.e., an R₁ is an R₀ space. -/
```
Comment (Parcly-Taxel) [inline Mathlib/Topology/Separation.lean:938]:
```suggestion
/-- In an R₁ space, the `Specializes` relation is symmetric. -/
```

File: Mathlib/Topology/Separation.lean (hunk 6 above)
Comment (urkud) [reply Mathlib/Topology/Separation.lean]: Why do you suggest removing the "i.e." parts? I added them on purpose: if we ever decide to add R₀ spaces (i.e., if we start caring about spaces which are R₀ but not R₁ for some reason), then one can immediately see the lemmas that need to be generalized from R₁ to R₀.

File: Mathlib/Topology/Separation.lean (hunk 8 above)
Comment (urkud) [reply Mathlib/Topology/Separation.lean]: This is a docstring for `Specializes.inseparable`, not for the `iff` lemma.

File: Mathlib/Topology/Separation.lean (hunk 6 above)
Comment (Parcly-Taxel) [reply Mathlib/Topology/Separation.lean]: Fine then.

File: Mathlib/Topology/Separation.lean [hunk 10]
```diff
@@ -912,6 +914,291 @@ theorem TopologicalSpace.subset_trans {s t : Set X} (ts : t ⊆ s) :
...
+theorem specializes_comm : x ⤳ y ↔ y ⤳ x := ⟨Specializes.symm, Specializes.symm⟩
+#align specializes_comm specializes_comm
+
+/-- In an R₁ space, `Specializes` is equivalent to `Inseparable`,
+i.e., an R₁ space is an R₀ space. -/
+theorem specializes_iff_inseparable : x ⤳ y ↔ Inseparable x y :=
+  ⟨fun h ↦ h.antisymm h.symm, Inseparable.specializes⟩
+#align specializes_iff_inseparable specializes_iff_inseparable
+
+/-- An R₁ space, if `x` specializes `y`, then they are inseparable,
```
Comment (Parcly-Taxel) [inline Mathlib/Topology/Separation.lean:955]:
```suggestion
/-- In an R₁ space, `Specializes` implies `Inseparable`,
```

**Comment by urkud** [comment]
bors merge
